US04045560
A mixture of 9-(2-morpholinylmethyl)-9,10-dihydro-9,10-methanoanthracene (50 mg), cyclopropylmethyl bromide (40 mg) and sodium amide (15 mg) in dry benzene was refluxed for 10 hours. The reaction mixture was diluted with benzene and water. The benzene layer was washed with water, dried over anhydrous sodium sulfate and evaporated to dryness to give 9-(4-cyclopropylmethyl-2-morpholinylmethyl)-9,10-dihydro-9,10-methanoanthracene, M.P. 88° - 90° C.

reactant | 9-(2-morpholinylmethyl)-9,10-dihydro-9,10-methanoanthracene | 50 mg | N1CC(OCC1)CC12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C20H21NO
reactant | cyclopropylmethyl bromide | 40 mg | C1(CC1)CBr | C4H7Br
reactant | sodium amide | 15 mg | [NH2-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 9-(4-cyclopropylmethyl-2-morpholinylmethyl)-9,10-dihydro-9,10-methanoanthracene | C1(CC1)CN1CC(OCC1)CC12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C24H27NO
